US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-{3-[(4-methyl-1-piperazinyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoate
Method as for preparation 5 using tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate (preparation 168) (598 mg, 1.18 mmol) and N-methylpiperazine (120 mg, 1.18 mmol) as starting materials.

reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)-1,2,4-oxadiazol-5-yl]hexanoate | 1.18 mmol, 598 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
reactant | N-methylpiperazine | 1.18 mmol, 120 mg | CN1CCNCC1 | C5H12N2
product | tert-butyl (3R)-6-cyclohexyl-3-{3-[(4-methyl-1-piperazinyl)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN1CCN(CC1)C | C24H42N4O3
